US09035059B2
Potassium carbonate (4.10 g, 29.7 mmol) was added to a solution of 2-chloro-N-(2-hydroxy-3-nitrophenyl)acetamide obtained (5.70 g, 24.7 mmol) in N,N-dimethylformamide (150 mL) while cooling in ice, and the mixture was stirred at room temperature for 5 hr. The mixture was diluted with ethyl acetate, washed with water and brine, and then dried over anhydrous sodium sulfate. The desiccant was filtered off, followed by concentration under reduced pressure. The resulting residue was powdered with chloroform and collected by filtration to afford 8-nitro-2 H-1,4-benzoxazin-3(4 H)-one as a pale orange powder (4.32 g).

reactant | Potassium carbonate | 29.7 mmol, 4.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N-(2-hydroxy-3-nitrophenyl)acetamide | ClCC(=O)NC1=C(C(=CC=C1)[N+](=O)[O-])O | C8H7ClN2O4
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-nitro-2 H-1,4-benzoxazin-3(4 H)-one | 4.32 g | [N+](=O)([O-])C1=CC=CC=2NC(COC21)=O | C8H6N2O4
